US07935696B2
N-(5-(Cyclopropylcarbamoyl)-2-methylphenyl)-4-(pyridin-3-yl)thiophene-2-carboxamide
The title compound was prepared by coupling 4-bromo-N-(5-(cyclopropylcarbamoyl)-2-methylphenyl)thiophene-2-carboxamide with commercially available 3-pyridylphenylboronic acid using the method described in Step B of Example 136 to afford a white solid (Example 204). HPLC Ret time=1.91 min. LCMS [M+H]+ 378.22.

reactant | 4-bromo-N-(5-(cyclopropylcarbamoyl)-2-methylphenyl)thiophene-2-carboxamide | BrC=1C=C(SC1)C(=O)NC1=C(C=CC(=C1)C(NC1CC1)=O)C | C16H15BrN2O2S
reactant | 3-pyridylphenylboronic acid | N1=CC(=CC=C1)OB(O)C1=CC=CC=C1 | C11H10BNO2
product | N-(5-(Cyclopropylcarbamoyl)-2-methylphenyl)-4-(pyridin-3-yl)thiophene-2-carboxamide | C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(=O)C=1SC=C(C1)C=1C=NC=CC1)C | C21H19N3O2S
